US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-(tert-butoxycarbonyl)-glycine
To a solution of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (6.87 g, 20 mmol) in tetrahydrofuran (50 mL) was added a solution of LiOH (1.64 g, 40 mmol) dissolved in water (30 mL). After stirring for 1 hour at room temperature, di-t-butyl dicarbonate (6.55 g, 30 mmol) was added to the reaction mixture. The resulting reaction mixture was stirred for 30 min. and then a solution of LiOH (0.82 g, 0.02 mol) in water (15 mL) was added. After completion of the reaction by TLC, the precipitate was removed by filtration and tetrahydrofuran was removed in vacuo. The residual solution was washed with ethyl ether (100 mL). The aqueous layer was acidified to pH 3 by adding 2N HCl and extracted with dichloromethane(100 mL). The organic layer was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to afford the desired product (7.88 g, 95%). 1H NMR (500 MHz; DMSO-d6) δ 8.73 (d, 1H), 8.19 (dd, 1H), 7.71˜7.63 (m, 2H), 3.84 (s, 1H), 3.79 (s, 1H), 3.30˜3.22 (m, 4H), 1.34 (s, 4.5H), 1.28 (s, 4.5H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 20 mmol, 6.87 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | LiOH | 40 mmol, 1.64 g | [Li+].[OH-]
reactant | di-t-butyl dicarbonate | 30 mmol, 6.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | LiOH | 0.02 mol, 0.82 g | [Li+].[OH-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-(tert-butoxycarbonyl)-glycine | 7.88 g, 95% | S1C(=NC2=C1C=CC=C2)S(=O)(=O)NCCN(CC(=O)O)C(=O)OC(C)(C)C | C16H21N3O6S2
